US07790709B2
Preparation of (E)-N-(2-Isopropoxy-3-methoxy-benzyl)-N-methyl-3-[4-(3-morpholin-4-yl-propyl)-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl]acrylamide hydrochloride
According to the procedure of Example 1, except substituting (2-isopropoxy-3-methoxy-benzyl)methylamine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, and substituting (E)-3-[4-(3-morpholin-4-yl-propyl)-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl]acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, the title compound (0.17 g, 44%) was prepared as an off-white powder: 1H NMR (300 MHz, DMSO-d6) δ 11.01 (br s, 1H), 10.66 (br s, 1H), 8.62 (br s, 1H), 8.35-8.22 (m, 1H), 7.57-7.52 (m, 1H), 7.40-7.32 (m, 1H), 7.05-6.93 (m, 2H), 6.66-6.62 (m, 1H), 4.80-4.64 (m, 2H), 4.60-4.45 (m, 1H), 4.08 (br s, 2H), 3.87-3.81 (m, 6H), 3.79 (s, 3H), 3.68 (br s, 2H), 3.50-3.38 (m, 4H), 3.21 (br s, 2H), 3.10-2.72 (m, 3H), 2.01 (br s, 2H), 1.27-1.15 (m, 6H); MS (ESI) m/e 552 (M+H)+.

reactant | (2-isopropoxy-3-methoxy-benzyl)methylamine | C(C)(C)OC1=C(CCN)C=CC=C1OC | C12H19NO2
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
reactant | (E)-3-[4-(3-morpholin-4-yl-propyl)-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl]acrylic acid hydrochloride | Cl.N1(CCOCC1)CCCN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
product | (E)-N-(2-Isopropoxy-3-methoxy-benzyl)-N-methyl-3-[4-(3-morpholin-4-yl-propyl)-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl]acrylamide hydrochloride | 0.17 g, 44% | Cl.C(C)(C)OC1=C(CN(C(\C=C\C2=CC3=C(NC(CN(C3)CCCN3CCOCC3)=O)N=C2)=O)C)C=CC=C1OC | InChI=1S/C30H41N5O5.ClH/c1-22(2)40-29-24(7-5-8-26(29)38-4)19-33(3)28(37)10-9-23-17-25-20-35(21-27(36)32-30(25)31-18-23)12-6-11-34-13-15-39-16-14-34;/h5,7-10,17-18,22H,6,11-16,19-21H2,1-4H3,(H,31,32,36);1H/b10-9+;
